US06638882B1
Preparation of Ammonium Toluene Sulfonate Catalyst
A 500 gallon tank containing 211 gallons of purified water was charged with 0.07 lbs. of sodium lauryl sulfate, and the aqueous solution was agitated to ensure homogeneity. A 66% aqueous solution of toluene sulfonic acid monohydrate, 500 lbs., was added followed by the addition of 5 gallons of purified water. Finally, an aqueous solution of ammonium hydroxide (17.5 gallons, 29-30% NH4OH by weight) was added. This catalyst solution had a density of 8.65 lb/gallon and a solids content of about 15±1%.

reactant | sodium lauryl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | toluene sulfonic acid monohydrate | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | ammonium hydroxide | 17.5 gallons | [OH-].[NH4+]
solvent | water | 5 gallons | O | H2O
solvent | water | 211 gallons | O | H2O
product | Ammonium Toluene Sulfonate | C=1(C(=CC=CC1)S(=O)(=O)[O-])C.[NH4+] | InChI=1S/C7H8O3S.H3N/c1-6-4-2-3-5-7(6)11(8,9)10;/h2-5H,1H3,(H,8,9,10);1H3
